US04762838
Allyl trans-2-[3-(7-Bromo-6-methylthioquinazolin-4(3H)-on-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate
Under a nitrogen atmosphere in a flame dried flask at room temperature and with magnetic stirring, a suspension of 0.43 g (0.00136 mol) of 7-bromo-6-methylthioquinazolin-4(3H)-one formic acid salt in 5 ml of methanol was treated with two equivalents of sodium methoxide in methanol (approximately 1N). After 15 minutes 0.53 g (0.0016 mol) of allyl trans-2-(3-bromo-2-oxopropyl)-3-methoxy-1-piperidinecarboxylate was added in one portion. After being stirred for an hour, the reaction mixture was evaporated under reduced pressure, and the residue was taken up in about 15 ml of water. The aqueous solution was extracted three times with 15 ml portions of dichloromethane. The combined extracts were dried over anhydrous sodium sulfate, filtered, and evaporated to afford the title compound: yield 0.61 g (86%). 1H-NMR(CDCl3): 1.3-2.0 ppm (multiplet, 4H, CH3OCHCH2CH2CH2N), 2.6 (singlet, 3H, CH3S), 2.8-3.0 (multiplet, 4H, COCH2CH and NCH2), 3.3 (broad singlet, 1H, CH2CHNCO), 3.4 (singlet, 3H CH3O), 4.0 (broad doublet, 1H, CHOCH3), 4.6 (broad doublet 2H, CH2CH=CH2), 4.8-5.1 (multiple peaks, 2H, NCH2CO), 5.2-5.4 (multiplet, 2H, CH2 =CH), 5.9 (octet, 1H, CH=CH2), 7.3 (singlet, 1H, aromatic H), 7.9 (singlet, 1H, aromatic H), 7.95 (singlet, 1H, N=CH--N).

reactant | 7-bromo-6-methylthioquinazolin-4(3H)-one formic acid salt | 0.00136 mol, 0.43 g | C(=O)O.BrC1=C(C=C2C(NC=NC2=C1)=O)SC
reactant | sodium methoxide | two equivalents | C[O-].[Na+]
reactant | allyl trans-2-(3-bromo-2-oxopropyl)-3-methoxy-1-piperidinecarboxylate | 0.0016 mol, 0.53 g | BrCC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O | C13H20BrNO4
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | approximately 1N | CO | CH4O
product | Allyl trans-2-[3-(7-Bromo-6-methylthioquinazolin-4(3H)-on-3-yl)-2-oxopropyl]-3-methoxy-1-piperidinecarboxylate | BrC1=C(C=C2C(N(C=NC2=C1)CC(C[C@@H]1N(CCC[C@H]1OC)C(=O)OCC=C)=O)=O)SC | C22H26BrN3O5S
